# This netlist generates a singular matrix (for testing purposes)

.analysis tran tstop=200ns tstep=0.5ns im=BE
.options sparse=0

vpulse:vin vin1 gnd v2 = 3v tr=1ns tf=1ns td=1ns pw=4ns per=10ns
vdc:vdd 0 3 vdc=3.3

res:R1 vin2 vin1 r=1e3
cap:c1 vin2 gnd c=1.6pf
mosekv:m1 1 vout 3 gnd w=10um l=1um type=n 
mosekv:m2 1 vout 5 gnd w=10um l=1um type=n 
cap:c2 vout gnd c=1pf

.plot tran vin1
.plot tran vin2
.plot tran vout

.end

